US09034866B2
Synthesis of (R)—N3-(tert-butyl)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide
Prepared as described for (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(tetrahydro-2H-pyran-4-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide replacing oxan-4-amine hydrochloride with tert-butylamine hydrochloride, off-white solid (58.7 mg, 25%).

reactant | (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(tetrahydro-2H-pyran-4-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CCOCC3)C1)(C)C1=NOC(=C1)C | C26H27N5O6
reactant | tert-butylamine hydrochloride | Cl.C(C)(C)(C)N
product | (R)—N3-(tert-butyl)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | C(C)(C)(C)NC(=O)C1=C(N=C2N1CCOC1=C2C=C(C=C1)C#C[C@](C)(C1=NOC(=C1)C)O)C(=O)N | C25H27N5O5
